US07459477B2
Magnesium (960 mg, 40 mmol) and then a catalytic amount of iodine were added to diethyl ether (15 ml), followed by slowly adding thereto isoamyl bromide (6.04 g, 40 mmol) with refluxing, and the resulting mixture was stirred at reflux temperature for 30 minutes and then at room temperature for 30 minutes. To the resulting solution was added 2-aminoacetophenone (1.8 g, 13.3 mmol) under ice-cooling, followed by stirring at room temperature for 3 hours. Ammonium chloride was added thereto and the resulting mixture was diluted with ethyl acetate and washed with water. The organic layer was dried over magnesium sulfate and then concentrated under reduced pressure to obtain 2.7 g of 2-(1-hydroxy-1,4-dimethylpentyl)aniline.

reactant | Magnesium | 40 mmol, 960 mg | [Mg] | Mg
reactant | iodine | II | I2
reactant | isoamyl bromide | 40 mmol, 6.04 g | C(CC(C)C)Br | C5H11Br
reactant | 2-aminoacetophenone | 13.3 mmol, 1.8 g | NCC(=O)C1=CC=CC=C1 | C8H9NO
reactant | Ammonium chloride | [Cl-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | 15 ml | C(C)OCC | C4H10O
product | 2-(1-hydroxy-1,4-dimethylpentyl)aniline | 2.7 g, Yield: 99% | OC(CCC(C)C)(C)C1=C(N)C=CC=C1 | C13H21NO
